US06329523B1
4-Piperazinyl-2,6-bis-hydroxymethyl pyridine
Diethyl-4-piperazinyl-2,6-pyridinedicarboxylate is dissolved in THF and treated with NaBH, and CaCl2 as per the procedure of Example 51 to give the title compound.

reactant | Diethyl-4-piperazinyl-2,6-pyridinedicarboxylate | C(C)OC(=O)C1=NC(=CC(=C1)N1CCNCC1)C(=O)OCC | C15H21N3O4
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | THF | C1CCOC1 | C4H8O
product | 4-Piperazinyl-2,6-bis-hydroxymethyl pyridine | N1(CCNCC1)C1=CC(=NC(=C1)CO)CO | C11H17N3O2
